US05110977
Bis(2-dimethylaminoethyl) terephthalate
A solution of 40.60 g (0.20 mol) of terephthaloyl chloride in 200 ml methylene chloride was gradually added to a solution of 35.66 g (0.40 mol) of 2-dimethylaminoethanol, 16.0 g (0.40 mol) of sodium hydroxide and 200 ml of water and stirred rapidly. The reaction was exothermic and achieved reflux. The mixture was stirred for another 1.75 hours after which the organic layer was separated, washed with water, dried over MgSO4 and concentrated to an oil.

reactant | terephthaloyl chloride | 0.20 mol, 40.60 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | 2-dimethylaminoethanol | 0.40 mol, 35.66 g | CN(CCO)C | C4H11NO
reactant | sodium hydroxide | 0.40 mol, 16.0 g | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | Bis(2-dimethylaminoethyl) terephthalate | C(C1=CC=C(C(=O)OCCN(C)C)C=C1)(=O)OCCN(C)C | C16H24N2O4
